US08703797B2
7-Isopropyl-1,3-dimethyl-1H-pyrazolo[4,3-b]pyridine:
1-(3-Fluoro-4-isopropyl-pyridin-2-yl)-ethanone (prepared in the previous step, 2.50 g, 15.15 mmol) and methyl hydrazine (1.04 g, 23.00 mmol) were combined in 8 mL of glycol. The reaction solution was stirred at 140° C. for 2 hours. After cooling, it was quenched with water, extracted with DCM, then washed with water, brine and concentrated. Column chromatography using 15 to 35% ethyl acetate in hexane as eluant afforded the title compound as a pale yellow solid. Spectroscopic data: 1H-NMR (300 MHz, CDCl3): δ ppm 1.39 (d, J=6.73 Hz, 6 H), 2.64 (s, 3 H), 3.65 (hept, J=6.73 Hz, 1 H), 4.23 (s, 3 H), 7.14 (d, J=4.69 Hz, 1 H), 8.44 (d, J=4.69 Hz 1 H).

reactant | 1-(3-Fluoro-4-isopropyl-pyridin-2-yl)-ethanone | FC=1C(=NC=CC1C(C)C)C(C)=O | C10H12FNO
reactant | methyl hydrazine | 23.00 mmol, 1.04 g | CNN | CH6N2
product | 7-Isopropyl-1,3-dimethyl-1H-pyrazolo[4,3-b]pyridine | C(C)(C)C1=C2C(=NC=C1)C(=NN2C)C | C11H15N3
